US05604237
A mixture of (4-nitrophenoxy)acetic acid (50 g) and thionyl chloride (150 ml) was heated under reflux for 3 h. The solution was concentrated and then coevaporated with benzene to give 4-nitrophenoxyacetyl chloride as a solid. A solution of this solid (9.4 g) in acetone (100 ml) was added dropwise to a stirred mixture of 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride (10 g) and sodium hydrogen carbonate (9 g) in acetone (100 ml) at 0°. Stirring was continued at room temperature for 16 h, the mixture was then filtered, and the filtrate was concentrated. The residue was treated with water and extracted with dichloromethane. The organic layer was washed with water, dried and concentrated to give the title compound (6.6 g) as an oil.

reactant | (4-nitrophenoxy)acetic acid | 50 g | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-nitrophenoxyacetyl chloride | [N+](=O)([O-])C1=CC=C(OCC(=O)Cl)C=C1 | C8H6ClNO4
